US04559177
To a methanol solution (30 ml) of 6-(9-acetoxynonyl)-2,3-dimethoxy-5-methylphenol (1.1 g) are added pyridine (0.3 ml) and bis(salicylidene)ethylenediiminocobalt(II) (14 mg), followed by stirring in oxygen streams at atmospheric temperature and pressure for 72 hours. The reaction product is isolated as in Example 7 and recrystallized from hexane. The above procedure yields 6-(9-acetoxynonyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone as orange-yellow needles melting at 30° C.

reactant | methanol | 30 ml | CO | CH4O
reactant | 6-(9-acetoxynonyl)-2,3-dimethoxy-5-methylphenol | 1.1 g | C(C)(=O)OCCCCCCCCCC1=C(C=C(C(=C1O)OC)OC)C | C20H32O5
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
solvent | oxygen | O=O | O2
catalyst | salcomine | 14 mg | C1=CC=C(C(=C1)C=NCCN=CC2=CC=CC=C2[O-])[O-].[Co+2]
product | 6-(9-acetoxynonyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone | C(C)(=O)OCCCCCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C20H30O6
